US04474700
A slurry of 24 g (0.50 mole) of 50% NaH/mineral oil in 140 ml of dry dimethyl sulfoxide was stirred while 24 g (0.50 mole) of methyl mercaptan was distilled in over a 2 hr. period. The mixture was then stirred until gas evolution became very slow after which the mixture was allowed to stand overnight. The resulting mixture was a thick paste which was diluted with 50 ml of dimethyl sulfoxide and charged into a 400 ml metal tube along with 33 g (0.75 mole) of carbon dioxide and 50 g (0.50 mole) of tetrafluoroethylene. The tube was shaken at 100° for 4 hr. The resulting solution was treated with 69.3 g (0.55 mole) of dimethyl sulfate. After an initial exotherm (maximum temperature, 50°), the mixture was stirred for 3 hr. Product was then removed under vacuum and fractionated to afford 63.9 g (62%) of methyl 3-methylthio-2,2,3,3-tetrafluoropropionate, bp 53° (10 mm, 1.3 kPa), IR (neat): 3020, 2970, and 2860 (satd CH), 1780 (C=O), and 1250-1100 cm-1 (C--F), 1H and 19F NMR agreed with the assigned structure.

reactant | NaH | 0.50 mole, 24 g | [H-].[Na+]
reactant | methyl mercaptan | 0.50 mole, 24 g | CS | CH4S
reactant | carbon dioxide | 0.75 mole, 33 g | C(=O)=O | CO2
reactant | tetrafluoroethylene | 0.50 mole, 50 g | FC(=C(F)F)F | C2F4
reactant | dimethyl sulfate | 0.55 mole, 69.3 g | S(=O)(=O)(OC)OC | C2H6O4S
solvent | dimethyl sulfoxide | 140 ml | CS(=O)C | C2H6OS
product | methyl 3-methylthio-2,2,3,3-tetrafluoropropionate | 63.9 g, 62% | CSC(C(C(=O)OC)(F)F)(F)F | C5H6F4O2S
